US04128723
3.4 g. (0.04 mole) of 2-amino-2-methylpropanonitrile are dissolved in 10 ml. of dioxane and a solution of 3.2 ml. (0.2 mole) of (phenylthio)carbonyl chloride in 10 ml. of dioxane is added. After stirring for one hour at room temperature, the reaction mixture is filtered, the filtrate is concentrated, and the solid residue is recrystallized from a small amount of toluene to yield 2.7 g of (1-cyano1-methylethyl)carbamothioic acid, S-phenyl ester; m.p. 152°-155°.

reactant | 2-amino-2-methylpropanonitrile | 0.04 mole | NC(C#N)(C)C | C4H8N2
reactant | (phenylthio)carbonyl chloride | 0.2 mole | C1(=CC=CC=C1)SC(=O)Cl | C7H5ClOS
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (1-cyano1-methylethyl)carbamothioic acid, S-phenyl ester | 2.7 g | C(#N)C(C)(C)NC(SC1=CC=CC=C1)=O | C11H12N2OS
